US04348399
A mixture of 10.0 g. of ethyl 4-(hexadecylamino)hydrocinnamate, 50 ml. of pyridine and 25 ml. of acetic anhydride is heated on a steam bath for 15 hours. The solution is poured onto ice and adjusted to pH 6 with concentrated hydrochloric acid. The mixture is filtered and the crystals washed with water. The solid is recrystallized from ethanol, yielding ethyl 4-(N-hexadecylacetamido)hydrocinnamate.

reactant | ethyl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OCC)C=C1 | C27H47NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(N-hexadecylacetamido)hydrocinnamate | C(CCCCCCCCCCCCCCC)N(C(C)=O)C1=CC=C(CCC(=O)OCC)C=C1 | C29H49NO3
